US09353107B2
Step-vi: 5-bromo-6-cyclopropyl-3-((trimethylsilyl)ethynyl)pyridin-2-amine
Cuprous iodide (11.23 mg, 0.059 mmol) was added to a mixture of 5-bromo-6-cyclopropyl-3-iodopyridin-2-amine (1 g, 2.95 mmol), triethylamine (13.4 g, 132.75 mmol) and THF (4 mL) and the resultant mixture was purged with nitrogen gas. Ethynyltrimethylsilane (347.7 mg, 3.54 mmol) and Pd(PPh3)2Cl2 (41.36 mg, 0.059 mmol) were added and purged with argon. The resultant mixture was stirred under argon atmosphere for 5 hours. The mixture was concentrated to residue. Residue was dissolved in ethyl acetate, washed with water, brine and dried over sodium sulfate and concentrated to get solid which was further purified on column (SiO2) using 15% ethyl acetate in hexane as eluent. This afforded 1.2 g (crude) of the pure compound.

reactant | 5-bromo-6-cyclopropyl-3-iodopyridin-2-amine | 2.95 mmol, 1 g | BrC=1C=C(C(=NC1C1CC1)N)I | C8H8BrIN2
reactant | triethylamine | 132.75 mmol, 13.4 g | C(C)N(CC)CC | C6H15N
reactant | Ethynyltrimethylsilane | 3.54 mmol, 347.7 mg | C(#C)[Si](C)(C)C | C5H10Si
catalyst | Pd(PPh3)2Cl2 | 0.059 mmol, 41.36 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-bromo-6-cyclopropyl-3-((trimethylsilyl)ethynyl)pyridin-2-amine | BrC=1C=C(C(=NC1C1CC1)N)C#C[Si](C)(C)C | C13H17BrN2Si
